US07176215B2
Ethyl 3-Phenylthieno[2,3-b]pyridine-2-carboxylate
To a solution of ethyl 2-mercaptoacetate (0.6 mL, 5.5 mmol) in dry DMF (10 mL) under nitrogen and cooled with an ice bath was added sodium hydride (220 mg of 60% dispersion in oil, 5.75 mmol). After hydrogen evolution had ceased the cooling bath was removed and the reaction stirred at room temperature for 30 mins. A solution of Intermediate 1 (920 mg, 4.6 mmol) in DMF (5 mL) was added and the reaction stirred at room temperature for 3 h. The reaction was quenched with water (50 mL) and extracted with EtOAc (3×50 mL). The combined EtOAc layers were washed with brine (50 mL), dried (MgSO4) and concentrated in vacuo to give a mixture of the title compound and uncyclised ethyl 2-(3-benzoylpyridin-2-ylsulfanyl)acetate. This crude mixture was dissolved in EtOH (10 mL) and sodium ethoxide (10 mL of 0.5M solution in EtOH, 5.0 mmol) added. The reaction was stirred at room temperature for 45 mins after which time complete conversion of uncyclised material to title compound was observed. The reaction was diluted with EtOAc (50 mL), washed with water (20 mL), dried (MgSO4) and concentrated in vacuo. The crude product was purified by chromatography on silica (10% EtOAc in isohexane) to give the title compound as a white solid (780 mg, 60%). δH (CDCl3) 8.63 (1H, dd, J 4.5, 1.4 Hz), 7.78 (1H, dd, J 8.2, 1.5 Hz), 7.41 (3H, m), 7.33–7.32 (2H, m), 7.24 (1H, dd, J 8.2, 4.6 Hz), 4.18 (2H, q, J 7.1 Hz), 1.15 (3H, t, J 7.1 Hz) LCMS (ES+) RT 3.90 minutes, 284 (M+H)+.

reactant | ethyl 2-mercaptoacetate | 5.5 mmol, 0.6 mL | SCC(=O)OCC | C4H8O2S
reactant | sodium hydride | 5.75 mmol, 220 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl 2-(3-benzoylpyridin-2-ylsulfanyl)acetate | C(C1=CC=CC=C1)(=O)C=1C(=NC=CC1)SCC(=O)OCC | C16H15NO3S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-Phenylthieno[2,3-b]pyridine-2-carboxylate | C1(=CC=CC=C1)C1=C(SC2=NC=CC=C21)C(=O)OCC | C16H13NO2S
